US07601870B2
(2,6-Dimethyl-4-nitro-phenyl)-carbamic acid propyl ester
To a solution of concentrated nitric acid (6.4 mL) in water (30 mL) was added (2,6-dimethyl-phenyl)-carbamic acid propyl ester (2.72 g), acetic acid (30 mL) and sodium nitrite (1.0 g). The reaction mixture was refluxed for 16 hours, water (200 mL) was added and the mixture was cooled to 0° C. The product was collected by filtration and dried in vacuo to furnish 1.40 g (42% yield) of the title compound as a yellow solid. The crude product was used without further purification. 1H NMR (500 MHz, DMSO-d6): 0.92 (t, 3H), 1.63 (m, 2H), 2.29 (s, 6H), 4.04 (t, 2H), 7.98 (s, 2H), 9.11 (b, 1H).

reactant | nitric acid | 6.4 mL | [N+](=O)(O)[O-] | HNO3
reactant | (2,6-dimethyl-phenyl)-carbamic acid propyl ester | 2.72 g | C(CC)OC(NC1=C(C=CC=C1C)C)=O | C12H17NO2
reactant | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
reactant | sodium nitrite | 1.0 g | N(=O)[O-].[Na+]
solvent | water | 30 mL | O | H2O
solvent | water | 200 mL | O | H2O
product | (2,6-Dimethyl-4-nitro-phenyl)-carbamic acid propyl ester | 1.40 g, 42% yield | C(CC)OC(NC1=C(C=C(C=C1C)[N+](=O)[O-])C)=O | C12H16N2O4
